US04558046
2-amino-thiazole-5-carboxylic acid, methyl ester (5 g) was reacted with ethyl 2-methyl-acetoacetate (9.11 g) in polyphosphoric acid (25 g:13.3 g of H3PO4 and 11.7 g of P2O5) under stirring at 100° C. for three hours. After cooling, dilution with ice water and neutralization with 20% NaOH, the precipitate was filtered, washed with water and crystallized from CH2Cl2 -hexane to give 6,7-dimethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester, m.p. 158°-159° C. (5.46 g), which was reacted with benzaldehyde (3.52 g) in methanol (120 ml) in the presence of sodium methylate (2.7 g) under stirring at reflux temperature for 120 hours. After cooling and concentration in vacuo, the precipitate was filtered and dissolved in a mixture of dimethylformamide and formic acid. The solution was diluted with ice water and the precipitate was filtered, washed with water until neutral and crystallized from isopropyl alcohol to give 2.8 g of 6-methyl-7-trans-(2-phenylethenyl)-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, m.p. 257°-259° C., N.M.R. (CF3COOD) δ p.p.m.: 2.50 (s) (3H, --CH3), 7.36 (d) (1H, β-ethenyl proton), 7.40-7.90 (m) (5H, phenyl protons), 7.73 (d) (1H, α-ethenyl proton), 9.07 (s) (1H, C-3 proton), JHαHβ =16 Hz.

reactant | 2-amino-thiazole-5-carboxylic acid, methyl ester | 5 g | NC=1SC(=CN1)C(=O)OC | C5H6N2O2S
reactant | ethyl 2-methyl-acetoacetate | 9.11 g | CC(C(=O)OCC)C(=O)C | C7H12O3
product | 6,7-dimethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester | CC1=C(N=C2N(C1=O)C=C(S2)C(=O)OC)C | C10H10N2O3S
